US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(phenylthio)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (352.5 mg, 1.08 mmol) and thiophenol were reacted as starting materials at 100° C. for 7 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (55.8 mg, 12.9%). Melting point: 176.9-177.8° C. (chloroform-diethyl ether)

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 1.08 mmol, 352.5 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 3,4-bis(4-methoxyphenyl)-6-(phenylthio)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)SC1=CC=CC=C1 | C24H20N2O2S
